US06548494B1
6-(4-Methylaminomethyl-phenyl)-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one
Using the reductive amination procedure described in Example 82, the title compound was synthesized from 4-(1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-6-yl)-benzaldehyde and methylamine in 71% yield as a pale-yellow solid: mp 178-180° C.; 1H NMR (DMSO-d6) δ 2.29 (s, 3H), 3.48 (br s, 2H), 3.70 (s, 2H), 4.30-4.33 (m, 2H), 6.68 (s, 1H), 7.16 (t, 1H, J=9.0 Hz), 7.45 (d, 2H, J=6.0 Hz), 7.55 (d, 2H, J=6.0 Hz), 7.77 (d, 1H, J=9.0 Hz), 7.80 (d, 1H, J=9.0 Hz), 8.36 (t, 1H, J=6.0 Hz). HRMS calcd. for C19H19N3O 305.3828 (M+), found 305.1536. Anal. (C19H19N3O.0.1H2O) C, H, N.

reactant | 4-(1-oxo-1,2,3,4-tetrahydro-[1,4]diazepino[6,7,1-hi]indol-6-yl)-benzaldehyde | O=C1CNCC=2C=C(C=C3C=CN1C23)C2=CC=C(C=O)C=C2 | C18H14N2O2
reactant | methylamine | CN | CH5N
product | 6-(4-Methylaminomethyl-phenyl)-3,4-dihydro-2H-[1,4]diazepino[6,7,1-hi]indol-1-one | 71% yield | CNCC1=CC=C(C=C1)C=1C=C2C=CN3C2=C(C1)CNCC3=O | C19H19N3O
